US04008230
To 0.410 g. (1.05 mmol.) of mercuric acetate in a mixture of 10 ml. of chloroform and 10 ml. of butyric acid are added 0.529 g. (1 mmol.) of 3-hydroxy-4-bromo-2-(2-formylthio-4-oxo-3-phenylacetamido-1-azetidinyl)-2-butenoate, benzhydryl ester, in 10 ml. of chloroform. The mixture is stirred for 15 minutes at 10° C., after which time the solution becomes cloudy. Ethyl mercaptan is added to the mixture, and the mixture then is filtered through activated charcoal and a filter aide. The resulting filtrate is evaporated, and a residue comprising benzhydryl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate is obtained.

reactant | butyric acid | C(CCC)(=O)O | C4H8O2
reactant | 3-hydroxy-4-bromo-2-(2-formylthio-4-oxo-3-phenylacetamido-1-azetidinyl)-2-butenoate | 1 mmol | OC(=C(C(=O)[O-])N1C(C(C1=O)NC(CC1=CC=CC=C1)=O)SC=O)CBr
reactant | Ethyl mercaptan | C(C)S | C2H6S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | benzhydryl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S
